US07034023B2
Step 4: Preparation of 7-(4-methoxy2-methylphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol
A mixture of 2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-amine (0.23 g, 1.06 mmol), ethyl trans-3-ethoxycrotonate (0.17 g, 1.06 mmol) and p-toluenesulfonic acid (0.01 g, 0.053 mmol) in CHCl3 (7.0 mL) was refluxed with a Dean-Stark tube charged with molecular sieves for 24 h. After cooling down to room temperature, the mixture was concentrated in vacuo to dryness and the residue was subjected to column chromatography (silica gel, 1/4 EtOAc/heptane) to give 0.194 g (65%) of beige foam as the desired product: mp 234–237° C.; 1H NMR (300 MHz, CDCl3) δ 7.22 (d, J=8 Hz, 1H), 6.89–6.87 (m, 1H), 6.84–6.79 (m, 1H), 6.54 (br s, 1H), 5.94 (br s, 1H), 3.85 (s, 3H), 2.34 (s, 3H), 2.18 (s, 3H), 2.08 (s, 3H); MS m/z 283.2 (M++H).

reactant | 2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-amine | 1.06 mmol, 0.23 g | COC1=CC(=C(C=C1)C=1N(C=CC1C)N)C | C13H16N2O
reactant | ethyl trans-3-ethoxycrotonate | 1.06 mmol, 0.17 g | CCO/C(=C/C(=O)OCC)/C | C8H14O3
solvent | CHCl3 | 7.0 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | p-toluenesulfonic acid | 0.053 mmol, 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 7-(4-methoxy2-methylphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol | 0.194 g, 65% | COC1=CC(=C(C=C1)C1=C(C=C2N1N=C(C=C2O)C)C)C | C17H18N2O2
